US08703805B2
Chlorosulfonic acid (1.0 mL, 15 mmol) was added dropwise to a cold (−78° C.) solution of 1-(2-chlorophenyl)-5-(thiophen-2-yl)-3-(trifluoromethyl)-1H-pyrazole (1.0 g, 3.2 mmol) in CH2Cl2 (22 mL) After 75 minutes stirring at −78° C. the cooling bath was removed and the brown solution was allowed to warm to ambient temperature. After 3½ hours stirring at ambient temperature, the reaction mixture was poured onto ice and diluted with CH2Cl2. The milky lower organic phase was separated and dried over Na2SO4. Filtration and concentration under reduced pressure of the organics gave a biphasic mixture that was further pumped down under high vacuum. NMR and GC/MS analysis of this material showed it not to be the product. The aqueous phase from the workup was saturated with Na2SO4 and extracted with EtOAc (3×). These organic extract were dried over Na2SO4, filtered and concentrated under reduced pressure to afford 5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)thiophene-2-sulfonic acid as a yellow syrup. This crude material was carried on to the sulfonyl chloride formation without purification. MS(ES): 409[M+H]+.

reactant | Chlorosulfonic acid | 15 mmol, 1.0 mL | ClS(=O)(=O)O | ClHO3S
reactant | 1-(2-chlorophenyl)-5-(thiophen-2-yl)-3-(trifluoromethyl)-1H-pyrazole | 3.2 mmol, 1.0 g | ClC1=C(C=CC=C1)N1N=C(C=C1C=1SC=CC1)C(F)(F)F | C14H8ClF3N2S
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 22 mL | C(Cl)Cl | CH2Cl2
product | 5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)thiophene-2-sulfonic acid | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(S1)S(=O)(=O)O)C(F)(F)F | C14H8ClF3N2O3S2
